US04314061
3,6-bis[3-(1-pyrrolyl)propoxy]acridine
The compound is prepared from 3,6-bis(3-chloropropoxy)acridine hydrochloride and pyrrole as described in Example 44.

reactant | 3,6-bis(3-chloropropoxy)acridine hydrochloride | Cl.ClCCCOC=1C=CC2=CC3=CC=C(C=C3N=C2C1)OCCCCl
reactant | pyrrole | N1C=CC=C1 | C4H5N
product | 3,6-bis[3-(1-pyrrolyl)propoxy]acridine | N1(C=CC=C1)CCCOC=1C=CC2=CC3=CC=C(C=C3N=C2C1)OCCCN1C=CC=C1 | C27H27N3O2
